US09056858B2
Synthesis of 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid [1-(6-methylamino-pyridin-3-yl)-cyclopropyl]-amide (21)
A pressure tube charged with 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid [1-(6-bromo-pyridin-3-yl)-cyclopropyl]-amide (0.200 g, 0.442 mmol), 33% methylamine in ethanol (0.250 mL, 1.99 mmol) in N-methylformamide (1 mL) is heated at 160° C. After 36 hours, the reaction is cooled to room temperature and diluted with ethyl acetate (20 mL) and water (20 mL). Phases are separated and the aqueous layer is extracted with ethyl acetate (3×20 mL). The combined organic layers are washed with saturated aqueous ammonium chloride (3×100 mL), saturated aqueous sodium bicarbonate (100 mL), brine (100 mL), dried over MgSO4, filtered and concentrated. The residue is purified by silica gel chromatography eluting with 0-15% methanol in dichloromethane to afford the title compound as a solid.

reactant | 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid [1-(6-bromo-pyridin-3-yl)-cyclopropyl]-amide | 0.442 mmol, 0.200 g | BrC1=CC=C(C=N1)C1(CC1)NC(=O)C=1C2=C(C=NC1)N(N=C2)C2=CC=C(C=C2)F | C21H15BrFN5O
reactant | methylamine | CN | CH5N
reactant | ethanol | 1.99 mmol, 0.250 mL | C(C)O | C2H6O
solvent | N-methylformamide | 1 mL | CNC=O | C2H5NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 20 mL | O | H2O
product | 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid [1-(6-methylamino-pyridin-3-yl)-cyclopropyl]-amide | CNC1=CC=C(C=N1)C1(CC1)NC(=O)C=1C2=C(C=NC1)N(N=C2)C2=CC=C(C=C2)F | C22H19FN6O
